US06001849
57a 2-(1-Boc-2-(R)-pyrrolidinyl)-5-chloro-6-(3-aminophenyl)furo[3,2-b]pyridine
The 2-(1-Boc-2-(R)-pyrrolidinyl)-5-chloro-6-bromo furo[3,2-b]pyridine (0.469 g, 1.2 mmol), obtained in Example 50a above, was dissolved in toluene (10 mL). 3-Aminophenyl boric acid (0.445 g, 2.87 mmol), Pd(O) tetrakis(tri-phenylphosphine) (0.04 g) and 2 M aqueous NaHCO3 (1.5 mL) were added to the solution. The mixture was refluxed for two days. The solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtOAc, 5:1 to 2:1) to afford an oil (0.20 g, 41%). MS (CI/NH3) m/z: 414 (M+H)+ ; 1H NMR (CDCl3, 300 MHz) δ 1.34, 1.46 (s, 9H), 1.95-2.08 (m, 2H), 2.15 (m, 1H), 2.28 (m, 1H), 3.58-3.68 (m, 2H), 4.98, 5.10 (br s, 1H), 6.24 (m, 1H), 6.63 (s, 1H) 6.76 (d, J=9.3 Hz, 2H), 6.82 (d, J=9.3 Hz, 1H) 7.62 (s, 1H).

reactant | 2-(1-Boc-2-(R)-pyrrolidinyl)-5-chloro-6-bromo furo[3,2-b]pyridine | 1.2 mmol, 0.469 g | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C1=CC2=NC(=C(C=C2O1)Br)Cl | C16H18BrClN2O3
reactant | 3-Aminophenyl boric acid | 2.87 mmol, 0.445 g | NC=1C=C(C=CC1)OB(O)O | C6H8BNO3
reactant | NaHCO3 | 2 M, 1.5 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-Boc-2-(R)-pyrrolidinyl)-5-chloro-6-(3-aminophenyl)furo[3,2-b]pyridine | 0.20 g, 41% | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C1=CC2=NC(=C(C=C2O1)C1=CC(=CC=C1)N)Cl | C22H24ClN3O3
